US06110962
3-Bromo-5-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-2-methoxy-phenol
Iodomethane (0.074 mL, 1.2 mmol) was added dropwise to a rt, stirred light suspension of 3-bromo-5-(6-bromo-benzo [b]naphtho [2,3 -d]thiophen-11 -yl)-benzene-1, 2-diol (0.30 g, 0.60 mmol), potassium carbonate (0.083 g, 0.6 mmol) in DMF (1.5 mL) over a period of five minutes. After the mixture was stirred at ambient temperature for 1.5 h., the reaction mixture was quenched with aqueous hydrochloric acid to pH 1 and further diluted with water (80 mL) and aqueous mixture was extracted with methylene chloride (120 mL). The organic extract was washed with water and dried with brine. Silica gel (5 mL) was added. Solvent was removed and the adsorbate was flash chromatographed (eluents:petroleum ether:methylene chloride 7:3 to 1:1 and then petroleum ether: ethyl acetate 7:3) to provide the title compound as a white solid (85 mg, 29%): mp 233-234° C.: NMR (CDCl3); δ8.35 (ddd, J=8, 1, 1 Hz, 1 H), 7.82 (ddd, J=8, 1, 1 Hz, 1 H), 7.66 (ddd, J=8, 7, 1 Hz, 1H), 7.65 (dd, J=8, 1, Hz, 1 H), 7.48 (ddd, J=8, 7, 1 Hz, 1 H), 7.43 (ddd, J=8, 7, 1 Hz, 1 H), 7.17 (ddd, J=8, 7, 1 Hz, 1 H), 7.15 (d, J=2 Hz, 1 H), 7.00 (d, J=2 Hz, 1 H), 6.87 (ddd, J=8, 1, 1 Hz, 1 H), 5.93 (s, 1 H), 4.14 (s, 3); MS (EI): [M+], 2 bromine isotope pattern, 512; Anal. Calc. for C23H14Br2O2S: C, 53.72, H, 2.74, N, 0.00. Found: C, 53.85, H, 2.98, N, 0.02.

reactant | Iodomethane | 1.2 mmol, 0.074 mL | IC | CH3I
reactant | 3-bromo-5-(6-bromo-benzo [b]naphtho [2,3 -d]thiophen-11 -yl)-benzene-1, 2-diol | 0.60 mmol, 0.30 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)O)O | C22H12Br2O2S
reactant | potassium carbonate | 0.6 mmol, 0.083 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-5-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-2-methoxy-phenol | 85 mg, 29% | BrC=1C(=C(C=C(C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)O)OC | C23H14Br2O2S
